US04348320
THF, 20 ml is placed under N2, treated with 1.54 ml diisopropylamine and cooled to -78° C. A solution of n-butyl lithium 1.97 M in hexane 5.6 ml is added dropwise over 5 min. The reaction mixture is stirred at -78° C. for 10 min and then treated with 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane 1.55 g in 15 ml THF added dropwise over 5 min. After another 10 min hexamethylphosphoramide 1.97 ml is added. The mixture is stirred another 10 min. then treated with 2 ml of isopropyl iodide. The reaction mixture is stirred at -78° C. for 15 min and allowed to warm to 25° C. and stirred for 15 min. The reaction mixture is diluted with EtOAc, washed once with pH 7 phosphate buffer then dried and evaporated. The residue is chromatographed on silica gel using 25% EtOAc/C6H6 as eluant to give 8-oxo-2,2-dimethyl-7α-isopropyl-3-oxa-1-azabicyclo[4.2.0]octane. μ i.r.: 5.7 (β-lactam).

reactant | diisopropylamine | 1.54 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.97 M | C(CCC)[Li]
reactant | 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 1.55 g | O=C1CC2CCOC(N12)(C)C | C8H13NO2
reactant | isopropyl iodide | 2 ml | C(C)(C)I | C3H7I
solvent | hexane | 5.6 ml | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexamethylphosphoramide | 1.97 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 8-oxo-2,2-dimethyl-7α-isopropyl-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2CCOC(N12)(C)C)C(C)C | C11H19NO2
